US04198425
Using 2.42 g of 6-(o-benzyloxyphenyl)-3-hexen-2-one, 1.8 ml of ethyl bromoacetate and 1.1 g of zinc, the reaction and the purification of the product were carried out according to the method described in Example 1 (a) affording 2.9 g of ethyl 3-hydroxy-3-methyl-7-(o-benzyloxyphenyl)-4-heptenoate.

reactant | 6-(o-benzyloxyphenyl)-3-hexen-2-one | 2.42 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCC=CC(C)=O | C19H20O2
reactant | ethyl bromoacetate | 1.8 ml | BrCC(=O)OCC | C4H7BrO2
catalyst | zinc | 1.1 g | [Zn] | Zn
product | ethyl 3-hydroxy-3-methyl-7-(o-benzyloxyphenyl)-4-heptenoate | 2.9 g | OC(CC(=O)OCC)(C=CCCC1=C(C=CC=C1)OCC1=CC=CC=C1)C | C23H28O4
